US04511391
2-[1-(Ethoxyimino)propyl]-5-(3,4-ethylenedioxyphenyl)-3-hydroxycyclohex-2-en-1-one was prepared from 5-(3,4-ethylenedioxyphenyl)-3-hydroxy-2-propionylcyclohex-2-en-1-one and ethoxyamine hydrochloride following essentially the same procedure as that described in Example 1 part (iv). The product was obtained as an oil and was characterized by proton nuclear magnetic resonance spectroscopy. Pmr spectrum (CDCl3 ; δ in ppm): 1.08-1.40 (6H, 2xt); 2.27-3.25 (7H, m); 4.00-4.24 (6H, m); 6.65-7.27 (3H, m); 15.00 (1H, brs).

reactant | 5-(3,4-ethylenedioxyphenyl)-3-hydroxy-2-propionylcyclohex-2-en-1-one | C1OC=2C=C(C=CC2OC1)C1CC(=C(C(C1)=O)C(CC)=O)O | C17H18O5
reactant | ethoxyamine hydrochloride | Cl.C(C)ON
product | 2-[1-(Ethoxyimino)propyl]-5-(3,4-ethylenedioxyphenyl)-3-hydroxycyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC2=C(C=C1)OCCO2)=O | C19H23NO5
